US05393875
A suspension of 0.74 g (1.83 mmol) of benzyl rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamate and 200 mg of palladium/charcoal (5%) in 30 ml of methanol was hydrogenated at room temperature under normal pressure for 2 hours. Subsequently, the catalyst was filtered off and the solution was evaporated under reduced pressure. There was obtained 0.54 g of rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamic acid as a colourless solid, MS: 314 (M+H)+.

reactant | benzyl rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamate | 1.83 mmol, 0.74 g | C(N)(=O)C(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H25NO5S
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium/charcoal | 200 mg | [Pd] | Pd
product | rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamic acid | 0.54 g | C(N)(=O)C(C)(C)S(=O)(=O)CC(C(=O)O)CC1=CC=CC=C1 | C14H19NO5S
